US03947449
30.2 g (0.2 mole) of 2-nitrobezaldehyde and 25.2 g (0.2 mole) of 5-methyl-1,3-cyclohexane-dione were dissolved in 300 ml of tetrahydrofurane, the solution was saturated at 18° C with hydrogen chloride and allowed to stand for 4 days at room temperature. Water was added, the oily layer was separated and stirred with methanol. The crystals that had formed were filtered off, washed with methanol and dissolved and recrystallized from glacial acetic acid. 9.5 g (17 % of the theory) of 7-chloro-3-methyl-10-hydroxy-1-oxo-1,2,3,4-tetrahydro-9(10H)-acridone having a decomposition point of 255° C were obtained.

reactant | 2-nitrobezaldehyde | 0.2 mole, 30.2 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | 5-methyl-1,3-cyclohexane-dione | 0.2 mole, 25.2 g | CC1CC(CC(C1)=O)=O | C7H10O2
reactant | hydrogen chloride | Cl | ClH
reactant | Water | O | H2O
solvent | tetrahydrofurane | 300 ml | O1CCCC1 | C4H8O
product | 7-chloro-3-methyl-10-hydroxy-1-oxo-1,2,3,4-tetrahydro-9(10H)-acridone | ClC1=CC=C2N(C=3CC(CC(C3C(C2=C1)=O)=O)C)O | C14H12ClNO3
